Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
jaw pain, fatigue
 
Major Surgical or Invasive Procedure:
Left Heart Catheterization

 
History of Present Illness:
Mr. ___ is a ___ yo male with history of CAD s/p MI ___ 
and DM presents with 1 month of jaw pain (anginal equivalent), 
fatigue especially during a recent golf outing. He has a h/o 
non-compliance with his BP/DM medications- only taking Labetolol 
and glyburide (stopped all others). In clinic noted to have new 
LBBB.  Did endorse episode of jaw pain about 10 days ago while 
golfing, had to stop after 7 holes.  Pain resolved with rest.  
Patient relayed fatigue, jaw pain, and general malaise to 
children, who urged him to seek care.  Had visit at ___ today, 
noted to have new LBBB compared to prior ECG in ___, and was 
sent to ED for further eval.

In the ER, vitals were 97.7 70 169/89 18 100 . EKG showed new 
LBBB. CXR showed clear lungs; mild blunting of L. CP angle 
(possible small left pleural effusion). Troponin 0.23, CK 70 He 
was given aspirin en route from OSH and heparin gtt in ED.  He 
did not receive plavix.
.
On evaluation on the floor, pt endorsed fatigue, but denied jaw 
pain, SOB, fevers/chills, and was otherwise asymptomatic.  He 
has a h/o MI in ___, symptomatic with chest pain at that time.
.
.  
REVIEW OF SYSTEMS:  
S/he denies any prior history of stroke, TIA, deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, hemoptysis, black stools or red 
stools. S/he denies recent fevers, chills or rigors. S/he denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
-CABG:  -  none
-PERCUTANEOUS CORONARY INTERVENTIONS:  PCI to non-dominant RCA 
___ after STEMI in ___
-PACING/ICD:  -  none
3. OTHER PAST MEDICAL HISTORY:
CAD s/p MI ___, see below
DM
HTN
Depression
HLD
h/o TIA 
S1 radiculitis, ___ L5-S1 small disc herniation 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
.  

 
Physical Exam:
VS: T= 98.1  BP= 174/99  HR= 74  RR= 20  O2 sat=  98% RA  
GENERAL: pleasant causasian male in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
 
Pertinent Results:
___ 02:40PM URINE  SPERM-RARE
___ 02:40PM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 02:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:40PM URINE  UHOLD-HOLD
___ 02:40PM URINE  UHOLD-HOLD
___ 02:40PM URINE  HOURS-RANDOM
___ 02:40PM URINE  HOURS-RANDOM
___ 04:00PM   ___ PTT-25.7 ___
___ 04:00PM   PLT COUNT-171
___ 04:00PM   NEUTS-55.1 ___ MONOS-6.8 EOS-2.0 
BASOS-0.8
___ 04:00PM   WBC-5.9 RBC-4.37* HGB-13.6* HCT-38.1* MCV-87 
MCH-31.1 MCHC-35.7* RDW-13.7
___ 04:00PM   CK-MB-NotDone
___ 04:00PM   cTropnT-0.23*
___ 04:00PM   CK(CPK)-70
___ 04:00PM   estGFR-Using this
___ 04:00PM   GLUCOSE-172* UREA N-19 CREAT-1.0 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 11:52PM   CK-MB-NotDone cTropnT-0.26*
___ 11:52PM   CK(CPK)-67

WBC  RBC   Hgb   Hct   MCV MCH  MCHC RDW  Plt Ct 
5.0  4.37* 13.4* 38.9* 89  30.7 34.5 13.9  173

Glucose UreaN Creat Na   K  Cl  HCO3 AnGap 
  173     18   1.0  143 4.1 108  30    9

Hb A1c 9

Cholest Triglyc  HDL  CHOL/HD  LDLcalc 
  198     148     36    5.5      132

ECG:
Sinus rhythm. Left bundle-branch block. Compared to the previous 
tracing  
of ___ left bundle-branch block is new. 
  

Left Heart Cath (___):
COMMENTS:      
1. Selective coronary angiography of this left dominant system 
revealed 
three vessel CAD. The LMCA was normal. The LAD was diffusely 
diseased up 
to 50% stenosis, with a 70% diagonal stenosis. The LCX had 
moderate 
diffuse disease. The RCA was small, non-dominant with diffuse 
in-stent 
restenosis. 
2. Limited resting hemodynamics demonstrated systemic arterial 
hypertension, with BP of 185/93mmHg. 
  
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 

TTE:
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is moderate global left ventricular 
hypokinesis (LVEF = 35-40 %). Right ventricular chamber size is 
normal. with mild global free wall hypokinesis. The aortic root 
is mildly dilated at the sinus level. The aortic arch is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
moderate global biventricular hypokinesis is now present c/w 
diffuse process (toxin, metabolic, etc., Multivessel CAD is also 
possible, but is less likely due to the diffuse/global 
dysfunction)

PA AND LATERAL CHEST RADIOGRAPH: 
  
There are low lung volumes but the lung parenchyma appears 
clear. The 
cardiomediastinal silhouette and hilar contours are normal 
 

 

 

 

 
Brief Hospital Course:
___ yo male with h/o CAD s/p PCI to RCA ___, presents with jaw 
pain, fatigue, found to have new LBBB and troponin of 0.23.
.  
# CORONARIES:  High suspicion for ACS, troponin (+).  Given 
history, patient may have had recent event vs. active ischemia.  
LBBB new from ___, but unclear if new today.  Given history, 
managed for ACS upon admission.  Patient received ASA, plavix 
loaded, statin, heparin gtt.  He was also started on metoprolol 
tartrate and lisinopril for elevated BP.  Left heart cath was 
performed the following day and showed 3 vessel disease as noted 
above.  No intervention was perfomed.  The patient did not have 
recurrence of his symptoms.  He was discharged with ASA, Plavix, 
statin, ACEi, beta blockade and Metformin.  He will have primary 
care follow up in two days, and will see Dr. ___ on 
___.
.  
# PUMP: Preserved EF in ___, no evidence of systolic/diastolic 
dysfunction on exam, although history was consistent with some 
systolic dysfunction.  TTE obtained after cath did show 
decreased LVEF of 35-40% with global hypokinesis.  Discharge 
regimen is noted above.
.  
# RHYTHM:  LBBB on ECG.  There were no events on telemetry.  
Toprol XL was continued at discharge.
.  
# h/o Type II DM- Patient was initially covered with SS humalog. 
 He was discharged with Metformin, glyburide was discontinued.  
He was encouraged to use his glucometer to monitor his glycemic 
control.  He has close primary care follow up.
.  
CODE: full  
.  
COMM:  ___ ___

 
Medications on Admission:
labetolol 1000 mg QAM, 500 mg QPM
glyburide 5 mg daily
not taking any other medications as prescribed
 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
6. Toprol XL 50 mg Tablet Sustained Release 24 hr Sig: Three (3) 
Tablet Sustained Release 24 hr PO once a day.
Disp:*90 Tablet Sustained Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary Artery Disease -> 3VD
Systolic Dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for chest discomfort. You 
underwent a procedure to look at the vessels of your heart which 
showed diffuse disease of the vessels.  You were started on many 
new medications and it is very important that you comply with 
these.  You did not have any recurrence of your symptoms that 
prompted your admission.  You were discharged on ___ in good 
condition.

Please see below for your follow up appointments.

The following changes have been made to your medications:
Please stop taking labetalol
Please stop taking glyburide
Please start taking Metformin 500 mg twice a day
Please start taking simvastatin 80 mg daily
Please start taking Toprol XL 150 mg daily
Please start taking lisinopril 20 mg daily
Please start taking Aspirin 325 mg daily
Please start taking Plavix 75 mg daily

 
Followup Instructions:
___